US04546104
a. 5-Amino-4-cyano-1-(2-hydroxyethyl)pyrazole (Formula II, R1 =2-hydroxyethyl, R2 =H)
A procedure analogous to that described in Example 1 was followed except 20.0 g (164 mM) of ethoxymethylene malononitrile in 250 ml of warm ethanol were added to 13.4 ml (15.0 g, 197 mM) of 2-hydroxyethylhydrazine in 30 ml of ethanol maintained at 45°-50°. Following completion of the reaction and subsequent cooling of the mixture, the crystalline product was removed by filtration, and washed with ether to afford 20.5 g (82%) of the title compound: mp, 160°-161°: tlc, Rf =0.28, silica gel, ethyl acetate (100%).

reactant | ethoxymethylene malononitrile | 164 mM, 20.0 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 2-hydroxyethylhydrazine | 197 mM, 13.4 ml, 15.0 g | OCCNN | C2H8N2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Amino-4-cyano-1-(2-hydroxyethyl)pyrazole | 20.5 g, 82% | NC1=C(C=NN1CCO)C#N | C6H8N4O
